US06677368B2
3-[1-(3-{(S)-2-[(Cyclopropylmethyl-amino)-methyl]-pyrrolidine-1-carbonyl}-5-methyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one
To a solution of 2-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (80 mg, 0.22 mmol), EDC (80 mg), HOBt (30 mg) in DMF (4 mL) was added TEA (0.08 mL) and cyclopropylmethyl-(S)-1-pyrrolidin-2-ylmethyl-amine (0.05 mL). The mixture was stirred at rt for 20 hours. The reaction was diluted with DCM, washed with water, NaHCO3, dried and concentrated. The residue was purified on a silica gel column to give the titled compound.

reactant | 2-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid | 0.22 mmol, 80 mg | FC=1C=C(C=CC1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC(=CC1C(=O)O)C | C21H15FN2O3
reactant | EDC | 80 mg
reactant | HOBt | 30 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopropylmethyl-(S)-1-pyrrolidin-2-ylmethyl-amine | 0.05 mL | C1(CC1)CNC[C@H]1NCCC1 | C9H18N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-[1-(3-{(S)-2-[(Cyclopropylmethyl-amino)-methyl]-pyrrolidine-1-carbonyl}-5-methyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one | C1(CC1)CNC[C@H]1N(CCC1)C(=O)C1=C(NC(=C1)C)\C=C\1/C(NC2=CC=CC(=C12)C1=CC(=CC=C1)F)=O | C30H31FN4O2
